US04952578
To a suspension of 7β-[2-(2-aminothiazol-4-yl)-2(difluoromethoxyimino)acetamido]-3-[3-formamido-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate (syn isomer) (0.7 g) in methanol (3.5 ml) was added concentrated hydrochloric acid (0.42 ml) at ambient temperature. After being stirred at the same temperature for 2 hours, the mixture was poured into ethyl acetate. The resulting precipitate was collected by filtration. The precipitate was dissolved in water, and adjusted to pH 2 with 5% aqueous sodium bicarbonate solution. This solution was subjected to a column chromatography on macroporous non-ionic adsorption resin "Diaion HP20". The object compound was eluted with 10% diisopropyl alcohol, and lyophilized to give 7β-[2-(2-aminothiazol-4-yl)-2-(difluoromethoxyimino)acetamido]-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate (syn isomer) (0.41 g).

reactant | 7β-[2-(2-aminothiazol-4-yl)-2(difluoromethoxyimino)acetamido]-3-[3-formamido-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate | 0.7 g | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)NC=O)CCO)C(=O)[O-])C1=O)=NOC(F)F | C20H20F2N8O7S2
reactant | hydrochloric acid | 0.42 ml | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 3.5 ml | CO | CH4O
product | 7β-[2-(2-aminothiazol-4-yl)-2-(difluoromethoxyimino)acetamido]-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate | 0.41 g | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)CCO)C(=O)[O-])C1=O)=NOC(F)F | C19H20F2N8O6S2
